US09034866B2
10-Bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (70 mg) was reacted with potassium benzyltrifluoroborate similar to as described in Example 5 and purified by reverse phase hplc to give 3-benzyl-10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide. This intermediate was reacted with 2-Methyl-3-butyne-ol similar to as described in Procedure E to afford 4.9 mg of 3-benzyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide following reverse phase hplc purification. MS (Q1) 420 (M)+. 1H NMR (400 MHz, CDCl3) δ 8.56 (d, J=8.2 Hz, 1H), 7.28 (d, J=7.1 Hz, 1H), 7.22-7.15 (m, 3H), 6.69 (d, J=9.9 Hz, 1H), 5.46 (s, 1H), 4.59 (s, 2H), 4.31 (dd, J=5.2, 3.1 Hz, 2H), 4.04 (dd, J=5.1, 3.1 Hz, 2H), 1.65 (s, 6H).

reactant | 10-Bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 70 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)I)C1)F | C12H8BrFIN3O2
reactant | potassium benzyltrifluoroborate | C(C1=CC=CC=C1)[B-](F)(F)F.[K+]
product | 3-benzyl-10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | C(C1=CC=CC=C1)C1=C(N=C2N1CCOC1=C2C=C(C(=C1)F)Br)C(=O)N | C19H15BrFN3O2
